US09227919B2
Step-7: N—((R)-1-(4-Fluoronaphthalen-1-yl)ethyl)-3-((S)-4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propanamide
To the stirred solution of (R)-3-(4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propanoic acid (0.8 g, 3.67 mmol) (Crude) in dry DMF (15 mL), CDI (0.713 g, 4.40 mmol) was added. The reaction mixture was stirred at RT for 0.5 h. Then (R)-1-(4-fluoronaphthalen-1-yl)ethanamine (0.832 g, 4.40 mmol) was added and the reaction mixture was stirred at RT for 2 h. After completion of reaction ice was added to reaction mixture, solid precipitated out was filtered through Buchner funnel to get title compound (830 mg, 58.1%); m/z 390.54. Crude was taken without purification for next reaction.

reactant | (R)-3-(4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propanoic acid | 3.67 mmol, 0.8 g | O=C1C[C@@H](CC2=CC=CC=C12)CCC(=O)O | C13H14O3
reactant | CDI | 4.40 mmol, 0.713 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (R)-1-(4-fluoronaphthalen-1-yl)ethanamine | 4.40 mmol, 0.832 g | FC1=CC=C(C2=CC=CC=C12)[C@@H](C)N | C12H12FN
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N—((R)-1-(4-Fluoronaphthalen-1-yl)ethyl)-3-((S)-4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propanamide | 830 mg, 58.1% | FC1=CC=C(C2=CC=CC=C12)[C@@H](C)NC(CC[C@H]1CC2=CC=CC=C2C(C1)=O)=O | C25H24FNO2
